US05264415
2-(2,4-dichlorophenyl)-2-[(1,2,4-triazol-1-yl)methyl]hexanoamide
To a 250 mL flask was charged 38.16 g (0.119 mole) of alpha-n-butyl-alpha-(2,4-dichlorophenyl)-1H-1,2,4-triazole-1-propane-nitrile followed by 100 mL (0.63 mole) of 48% hydrobromic acid. The mixture was stirred at reflux for 48 hours after which GLC indicated disappearance of the starting material. The reaction was cooled to room temperature and neutralized with concentrated ammonium hydroxide (100 mL) to pH 8 and then to neutral pH with concentrated hydrochloric acid. A gummy oil formed which was taken up with 200 mL of ethyl acetate. The aqueous was extracted twice more with 200 ml portions of ethyl acetate and the combined ethyl acetate portions were then washed three times with 100 mL portions of water. The organic phase was dried and concentrated to give a tan solid which was recrystallized from ethyl ether. The product was filtered and gave 22.78 g (56.3% yield) of a solid, Example 162 of Table 1.

reactant | alpha-n-butyl-alpha-(2,4-dichlorophenyl)-1H-1,2,4-triazole-1-propane-nitrile | 0.119 mole, 38.16 g | C(CCC)C(C#N)(CN1N=CN=C1)C1=C(C=C(C=C1)Cl)Cl | C15H16Cl2N4
reactant | hydrobromic acid | 0.63 mole, 100 mL | Br | BrH
reactant | ammonium hydroxide | 100 mL | [OH-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2-(2,4-dichlorophenyl)-2-[(1,2,4-triazol-1-yl)methyl]hexanoamide | 22.78 g, 56.3% yield | ClC1=C(C=CC(=C1)Cl)C(C(=O)N)(CCCC)CN1N=CN=C1 | C15H18Cl2N4O
